US07932282B2
A mixture of crude 3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxylic acid (10 ml of 0.05M solution in DCM, 0.5 mmol), N-ethylmorpholine (0.383 ml, 3.00 mmol), 1-hydroxybenzotriazole hydrate (92 mg, 0.600 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (115 mg, 0.600 mmol) was stirred at room temperature for 10 minutes. A solution of {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine (105 mg, 0.5 mmol) in dichloromethane (1 ml) was added and the reaction stirred at room temperature for 18 hours. The reaction mixture was diluted with dichloromethane and the solution was washed with saturated sodium hydrogen carbonate solution, water, aqueous citric acid, water and brine, dried and evaporated. The residue was purified by silica gel chromatography eluting with 0-10% methanol in dichloromethane. The residue was triturated with ether and the resulting solid was collected and dried to give N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxamide (150 mg, 62%). LC/MS [M+H]+=482, retention time 2.81 minutes.

reactant | 3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxylic acid | 0.5 mmol, 0.05M, 10 ml | CN1C(N(CC1C(=O)O)C1=NC=CC(=N1)C(F)(F)F)=O | C10H9F3N4O3
reactant | N-ethylmorpholine | 3.00 mmol, 0.383 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-hydroxybenzotriazole hydrate | 0.600 mmol, 92 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.600 mmol, 115 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | {[2-chloro-3-(trifluoromethyl)phenyl]methyl}amine | 0.5 mmol, 105 mg | ClC1=C(C=CC=C1C(F)(F)F)CN | C8H7ClF3N
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-{[2-chloro-3-(trifluoromethyl)phenyl]methyl}-3-methyl-2-oxo-1-[4-(trifluoromethyl)-2-pyrimidinyl]-4-imidazolidinecarboxamide | 150 mg, 62% | ClC1=C(C=CC=C1C(F)(F)F)CNC(=O)C1N(C(N(C1)C1=NC=CC(=N1)C(F)(F)F)=O)C | C18H14ClF6N5O2
